US09289419B2
NaNO2 (2.26 g, 32.89 mmol) in water (7 mL) was added dropwise at 0° C. to a solution of 3-(ethoxycarbonyl)-4-fluoropyrazolo[1,5-a]pyridin-5-aminium 2,2,2-trifluoroacetate (7 g, 97.5 mmol) in aq.47% HBr (56 mL) and continued stirring at same temperature for 30 min. CuBr (6.29 g, 44 mmol) in aq.47% HBr (56 mL) was added dropwise to above solution at 0° C. and stirring was continued at 28° C. for 1 hr. Reaction mixture was quenched with ice water, extracted into EtOAc, washed it with water followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford crude. The crude obtained was purified by column purification (using 60-120 silicagel and 5% EtOAc in Hexane as eluant) to afford ethyl 5-bromo-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylate. NMR (300 MHz, DMSO-d6) δ 9.45-9.43 (d, 1H), 8.51 (s, 1H), 8.33-8.30 (d, 1H), 4.35-4.28 (m, 2H), 1.36-1.31 (t, 3H).

reactant | NaNO2 | 32.89 mmol, 2.26 g | N(=O)[O-].[Na+]
reactant | 3-(ethoxycarbonyl)-4-fluoropyrazolo[1,5-a]pyridin-5-aminium 2,2,2-trifluoroacetate | 97.5 mmol, 7 g | FC(C(=O)[O-])(F)F.C(C)OC(=O)C=1C=NN2C1C(=C(C=C2)[NH3+])F
reactant | HBr | 56 mL | Br | BrH
reactant | HBr | 56 mL | Br | BrH
solvent | water | 7 mL | O | H2O
product | ethyl 5-bromo-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylate | BrC1=C(C=2N(C=C1)N=CC2C(=O)OCC)F | C10H8BrFN2O2
